US07989444B2
7-(3-{[4-Methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.10 mmol) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline and was obtained as a colourless slightly hygroscopic solid (15 μmol)

reactant | 6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.10 mmol | O1C=NC=2C1=CC1=C(CCNCC1)C2 | C11H12N2O
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 7-(3-{[4-Methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.CN1C(=NN=C1C1=C2C=CC(=NC2=CC=C1)C)SCCCN1CCC2=C(CC1)C=C1C(=C2)OC=N1 | InChI=1S/C27H28N6OS.ClH/c1-18-7-8-21-22(5-3-6-23(21)29-18)26-30-31-27(32(26)2)35-14-4-11-33-12-9-19-15-24-25(34-17-28-24)16-20(19)10-13-33;/h3,5-8,15-17H,4,9-14H2,1-2H3;1H
